US07737145B2
A mixture of methyl 4-(bromomethyl)benzoate (2 g, 8.73 mmol) and N,N′-dimethylethan-1,2-diamine (7.5 mL, 70 mmol) was heated with triethylamine (9.8 mL, 70 mmol) in tetrahydrofuran (80 mL) to reflux for two hours. After cooling, the mixture was treated with saturated sodium bicarbonate solution. The mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, and concentrated under reduced pressure. Flash chromatography gave 1.28 g of methyl 4-[(methyl(2-(methylamino)ethyl)amino)methyl]benzoate, 1H NMR (300 MHz, CD3OD) δ 7.97 (d, 2H), 7.45 (d, 2H), 3.59 (s, 2H), 2.67 (m, 2H), 2.54 (m, 2H), 2.35 (s, 3H), 2.22 (s, 3H) ppm.

reactant | methyl 4-(bromomethyl)benzoate | 8.73 mmol, 2 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | N,N′-dimethylethan-1,2-diamine | 70 mmol, 7.5 mL | CNCCNC | C4H12N2
reactant | triethylamine | 70 mmol, 9.8 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | methyl 4-[(methyl(2-(methylamino)ethyl)amino)methyl]benzoate | 1.28 g | CN(CCNC)CC1=CC=C(C(=O)OC)C=C1 | C13H20N2O2
